US04922012
Preparation of di(n-butyl)N,N-di(n-butyl)carbamoylmethylphosphine oxide
The reaction was conducted as described in example I with the substitution of 22.6 g (0.11 mole) of N,N-di(n-butyl)chloroacetamide and 18.0 g (0.10 mole) of di(n-butyl)phosphine oxide as starting materials. After a reaction period of 5 hours, workup yielded 34.5 g of an amber oil which was 84% pure by GLC. Flash distillation in a Kugelrohr apparatus (10-3 mm Hg) produced a colorless oil which was 91% pure by GLC. Analytical data for this product is summarized in Table I.

reactant | N,N-di(n-butyl)chloroacetamide | 0.11 mole, 22.6 g | C(CCC)N(C(CCl)=O)CCCC | C10H20ClNO
reactant | di(n-butyl)phosphine oxide | 0.10 mole, 18.0 g | C(CCC)P(CCCC)=O | C8H19OP
product | di(n-butyl)N,N-di(n-butyl)carbamoylmethylphosphine oxide | 34.5 g | C(CCC)P(CC(N(CCCC)CCCC)=O)(CCCC)=O | C18H38NO2P
